US06110937
The (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)piperidine in ether was treated with 1M solution of hydrochloric acid in ether (102 mL). The resulting white precipitate was filtered, and dried in vacuo to yield (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)-piperidine hydrochloride (29.5 g, 94.5%), m.p.>280° C.

reactant | (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)piperidine | BrC1=CC(=C(OC[C@@H]2CNCCC2)C(=C1)C)C | C14H20BrNO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 102 mL | CCOCC | C4H10O
product | (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)-piperidine hydrochloride | 29.5 g, 94.5% | Cl.BrC1=CC(=C(OC[C@@H]2CNCCC2)C(=C1)C)C | InChI=1S/C14H20BrNO.ClH/c1-10-6-13(15)7-11(2)14(10)17-9-12-4-3-5-16-8-12;/h6-7,12,16H,3-5,8-9H2,1-2H3;1H/t12-;/m0./s1
